US07947706B2
To a solution of 2.24 g of ethyl 1H-pyrrolo[2,3-c]pyridine-2-carboxylate in 150 mL of pyridine is added dropwise a solution of 3.53 g of pyridinium tribromide in 30 mL of pyridine, at 5° C. The reaction mixture is then stirred for 16 hours at a temperature in the region of 20° C., and then washed with 500 mL of ice-cold water. The suspension is filtered. The resulting solid is washed with water and then dried in a vacuum oven at 40° C. 1.97 g of ethyl 3-bromo-1H-pyrrolo[2,3-c]pyridine-2-carboxylate are obtained, the characteristics of which are as follows:

reactant | ethyl 1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 2.24 g | N1C(=CC=2C1=CN=CC2)C(=O)OCC | C10H10N2O2
reactant | pyridinium tribromide | 3.53 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 3-bromo-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 1.97 g | BrC1=C(NC2=CN=CC=C21)C(=O)OCC | C10H9BrN2O2
